US05006567
(b) 4-Phenyl-2-butanone t-butyl hydrazone
A solution of 50.46 g t-butyl hydrazine hydrochloride and 32 g of 50 percent aqueous sodium hydroxide in 70 ml of water is stirred in an ice water bath. About 55 g of 4-phenyl-2-butanone is added with stirring. The reaction and isolation are continued as in Example (a). The title compound is isolated as a fraction distilled under 0.9 mm pressure at 110° C.-119° C. The yield is about 49 percent based upon the initial amount of 4-phenyl-2-butanone added.

reactant | t-butyl hydrazine hydrochloride | 50.46 g | Cl.C(C)(C)(C)NN
reactant | sodium hydroxide | 32 g | [OH-].[Na+]
reactant | 4-phenyl-2-butanone | 55 g | C1(=CC=CC=C1)CCC(C)=O | C10H12O
solvent | water | 70 ml | O | H2O
product | 4-Phenyl-2-butanone t-butyl hydrazone | yield is about 49 percent | C(C)(C)(C)NN=C(C)CCC1=CC=CC=C1 | C14H22N2
